US07790737B2
A solution of N-ethyl-6-methoxy-2-[(methoxymethoxy)methyl]pyridin-3-amine (7.20 g, 31.8 mmol) and cyclopentanecarbaldehyde (3.75 g, 38.2 mmol) in 1,2-dichloroethane (240 mL) was added with sodium triacetoxyborohydride (8.75 g, 41.3 mmol), and the mixture was stirred at room temperature for 12 hours. The reaction mixture was added with water, and extracted with chloroform. The organic layers were combined, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=8:1) to obtain N-(cyclopentylmethyl)-N-ethyl-6-methoxy-2-[(methoxymethoxy)methyl]pyridin-3-amine (8.39 g, 86%) as pale yellow oil.

reactant | N-ethyl-6-methoxy-2-[(methoxymethoxy)methyl]pyridin-3-amine | 31.8 mmol, 7.20 g | C(C)NC=1C(=NC(=CC1)OC)COCOC | C11H18N2O3
reactant | cyclopentanecarbaldehyde | 38.2 mmol, 3.75 g | C1(CCCC1)C=O | C6H10O
reactant | sodium triacetoxyborohydride | 41.3 mmol, 8.75 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 240 mL | ClCCCl | C2H4Cl2
product | N-(cyclopentylmethyl)-N-ethyl-6-methoxy-2-[(methoxymethoxy)methyl]pyridin-3-amine | 8.39 g, 86% | C1(CCCC1)CN(C=1C(=NC(=CC1)OC)COCOC)CC | C17H28N2O3
